US03989738
1271/2 Grams of 3,5-di-tert.butyl-4-hydroxybenzyl chloride was added dropwise, in 40 minutes, to a solution of 44.0 grams of pyridine in 500 milliliters of acetone. The mixture was stirred briefly and was then filtered, yielding 159 grams of 3,5-di-tert.butyl-4-hydroxybenzyl-pyridinium chloride, with a melting point of 239°-240° C. (with decomposition). This represents 95 percent of theory.

reactant | 3,5-di-tert.butyl-4-hydroxybenzyl chloride | C(C)(C)(C)C=1C=C(CCl)C=C(C1O)C(C)(C)C | C15H23ClO
reactant | pyridine | 44.0 grams | N1=CC=CC=C1 | C5H5N
solvent | acetone | 500 milliliters | CC(=O)C | C3H6O
product | 3,5-di-tert.butyl-4-hydroxybenzyl-pyridinium chloride | 159 grams | [Cl-].C(C)(C)(C)C=1C=C(C[N+]2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C20H27NO.ClH/c1-19(2,3)16-12-15(14-21-10-8-7-9-11-21)13-17(18(16)22)20(4,5)6;/h7-13H,14H2,1-6H3;1H
